US04867904
7.6 g of caesium fluoride are added to a mixture of 3.55 g of 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-cyano-3-nitrophenyl)ethane (obtainable by nitrating 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-bromophenyl)-ethane, reacting the product with copper cyanide in N-methylpyrrolidone and subsequently purifying the product by chromatography) and 25 ml of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidone, and the mixture is heated at 120oC for 5 hours. Adding water and working up after extraction gives 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-cyano-3-fluorophenyl)-ethane.

reactant | caesium fluoride | 7.6 g | [F-].[Cs+]
reactant | 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-cyano-3-nitrophenyl)ethane | 3.55 g | C(CCCC)C12CCC(CC1)(CC2)CCC2=CC(=C(C=C2)C#N)[N+](=O)[O-] | C22H30N2O2
reactant | 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-bromophenyl)-ethane | C(CCCC)C12CCC(CC1)(CC2)CCC2=CC=C(C=C2)Br | C21H31Br
reactant | copper cyanide | [Cu](C#N)C#N
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-[4-pentylbicyclo(2.2.2)octyl]-2-(4-cyano-3-fluorophenyl)-ethane | C(CCCC)C12CCC(CC1)(CC2)CCC2=CC(=C(C=C2)C#N)F | C22H30FN
